US06919377B2
To an ice-cold, stirred solution of trans-N-[4-(4-hydroxyphenyl) cyclohexyl]-N-(3-phenylpropyl)carbamic acid methyl ester (0.30 g, 0.82 mmol) in anhydrous THF (20 mL), under a N2 atmosphere, was added LiAlH4 (95% powder, 0.034 g, 0.89 mmol). The reaction mixture was stirred at room temperature for 6 hours. LAH (95% powder, 0.07 mg, 1.8 mmol) was added, and stirring was continued for 14 hours. The reaction mixture was then quenched by the slow addition of H2O (2 mL). The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica, 9:1 MeOH:CH2Cl2) gave trans-4-{4-[methyl(3-phenylpropyl)amino]cyclohexyl}phenol (0.19 g, 70%) as an off-white solid: IR (thin film): 2931, 1613, 1515 cm−1; 5 1H NMR (300 MHz, CD3OD) δ 7.30-7.11 (m, 5H), 7.00 (d, J=8 Hz, 2H), 6.67 (d, J=8 Hz, 2H), 2.69-2.49 (m, 5H), 2.41-2.31 (m, 1H), 2.30 (s, 3H), 2.00-1.78 (m, 6H), 1.55-1.34 (m, 4H); CI-MS (methane) (m/z): 324 [M+H]+; HRMS-API (m/z): [M+H]+ Calcd for C22H29NO, 324.2327. found: 324.2333. HPLC: method A, 7.82 minutes (99.8%); method B, 13.89 minutes (99.7%); Anal. Calcd for C22H29NO.0.25 H2O: C, 80.57; H, 9.07; N, 4.27. Found: C, 80.51; H, 8.83; N, 4.27.

reactant | trans-N-[4-(4-hydroxyphenyl) cyclohexyl]-N-(3-phenylpropyl)carbamic acid methyl ester | 0.82 mmol, 0.30 g | COC(N(CCCC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O)=O | C23H29NO3
reactant | LiAlH4 | 0.89 mmol, 0.034 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LAH | 1.8 mmol, 0.07 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | trans-4-{4-[methyl(3-phenylpropyl)amino]cyclohexyl}phenol | 0.19 g, 70% | CN([C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O)CCCC1=CC=CC=C1 | C22H29NO
